US04100193
Preparation of 2-(Bicyclo[2.2.2]oct-2-ylacetyl)bicyclo[2.2.2]octane
1-[3-methylbicyclo[2.2.2]oct-2-yl]-6-[3,3-dimethylbicyclo[2.2.2]oct-2-yl]hexan-3-one from 3-methylbicyclo[2.2.2]oct-2-ylmethylmalonic ester and 4-[3,3-dimethylbicyclo[2.2.2]oct-2-yl]butyric acid chloride and 1-[5,6-diethylbicyclo[2.2.2]oct-2-yl]-4-[1,7,7-trimethylbicyclo[2.2.2]oct-2-yl]butan-2-one from 5,6-diethylbicyclo[2.2.2]oct-2-ylacetyl chloride and 1,7,7-trimethylbicyclo[2.2.2]oct-2-ylmethylmalonic ester.

reactant | 1-[3-methylbicyclo[2.2.2]oct-2-yl]-6-[3,3-dimethylbicyclo[2.2.2]oct-2-yl]hexan-3-one | CC1C(C2CCC1CC2)CCC(CCCC2C1CCC(C2(C)C)CC1)=O | C25H42O
reactant | 4-[3,3-dimethylbicyclo[2.2.2]oct-2-yl]butyric acid chloride | CC1(C(C2CCC1CC2)CCCC(=O)Cl)C | C14H23ClO
reactant | 1-[5,6-diethylbicyclo[2.2.2]oct-2-yl]-4-[1,7,7-trimethylbicyclo[2.2.2]oct-2-yl]butan-2-one | C(C)C1C2CC(C(C1CC)CC2)CC(CCC2C1(CCC(C2)CC1(C)C)C)=O | C27H46O
reactant | 5,6-diethylbicyclo[2.2.2]oct-2-ylacetyl chloride | C(C)C1C2CC(C(C1CC)CC2)CC(=O)Cl | C14H23ClO
product | 2-(Bicyclo[2.2.2]oct-2-ylacetyl)bicyclo[2.2.2]octane | C12C(CC(CC1)CC2)CC(=O)C2C1CCC(C2)CC1 | C18H28O
